US04225609
Step A: Preparation of Ethyl 4-{3-[3-[2-(1-Hydroxycyclohexyl)ethyl]-5,5-dimethyl-4-oxo-2-thiazolidinyl]propyl}benzoate
A solution of ethyl 4-(4-oxobutyl)benzoate (5.5 g., 0.025 mole) and 1-(2-aminoethyl)cyclohexanol (3.7 g., 0.026 mole) in toluene (40 ml.) is boiled in an open flask for 5 minutes to remove the formed water as the azeotrope. 2-Mercapto-2-methylpropionic acid (3.3 g., 0.0275 mole) is added and the solution is boiled under a Dean-Stark water separator for 5 hours. The solution is then cooled, washed with 2 N hydrochloric acid and water, and dried over sodium sulfate. The solvent is removed at reduced pressure. The residue is chromatographed on 165 g. of silica gel with 2% methanol in chloroform as the eluent. There is obtained 4.6 g. of the title ester as a light yellow, viscous oil.

reactant | ethyl 4-(4-oxobutyl)benzoate | 0.025 mole, 5.5 g | O=CCCCC1=CC=C(C(=O)OCC)C=C1 | C13H16O3
reactant | 1-(2-aminoethyl)cyclohexanol | 0.026 mole, 3.7 g | NCCC1(CCCCC1)O | C8H17NO
reactant | 2-Mercapto-2-methylpropionic acid | 0.0275 mole, 3.3 g | SC(C(=O)O)(C)C | C4H8O2S
reactant | water | O | H2O
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 4-{3-[3-[2-(1-Hydroxycyclohexyl)ethyl]-5,5-dimethyl-4-oxo-2-thiazolidinyl]propyl}benzoate | OC1(CCCCC1)CCN1C(SC(C1=O)(C)C)CCCC1=CC=C(C(=O)OCC)C=C1 | C25H37NO4S
